US05266575
2-Ethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline
A 16.55 g (0.077 mol) portion of N4 -(2-methylpropyl)-3,4-quinolinediamine (U.S. Pat. No. 4,689,338 example 16) was suspended in 100 mL of propionic acid and then heated at 120° C. for about 20 hours. After cooling to room temperature, the reaction mixture was poured into 300 mL of water, made basic with concentrated ammonium hydroxide, cooled in an ice bath and then extracted with diethyl ether. The volume of the ether extract was reduced under vacuum. The resulting precipitate was collected, rinsed with ether and dried to provide 11 g of crystalline solid, m.p. 72-73.5° C. Analysis: Calculated for C16H19N3 : %C, 75.8; %H, 7.6; %N, 16.6; Found: %C, 75.6; %H, 7.7; %N, 16.5.

reactant | N4 -(2-methylpropyl)-3,4-quinolinediamine | CC(CNC1=C(C=NC2=CC=CC=C12)N)C | C13H17N3
reactant | water | 300 mL | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | propionic acid | 100 mL | C(CC)(=O)O | C3H6O2
product | 2-Ethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 11 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C16H19N3
